US07648997B2
To a solution of 2-{2-[2-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethoxy}-1H-isoindole-1,3(2H)-dione (11.0 g, 25.5 mmol) in chloroform (150 mL) was added mCPBA (11.4 g, 51.1 mmol). The solution was stirred at room temperature for 2 hours. Concentrated ammonium hydroxide (100 mL) was added, followed by p-toluenesulfonyl chloride (5.40 g, 28.1 mmol). The mixture was stirred overnight at room temperature. The mixture was transferred to a separatory funnel and was washed twice with 5% aqueous ammonium chloride and once with aqueous sodium carbonate solution, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by flash chromatography (silica gel, gradient elution with 0-5% methanol in dichloromethane) to provide 6 g of 1-{2-[2-(aminooxy)ethoxy]ethyl}-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | 2-{2-[2-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethoxy}-1H-isoindole-1,3(2H)-dione | 25.5 mmol, 11.0 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCON1C(C2=CC=CC=C2C1=O)=O | C24H22N4O4
reactant | mCPBA | 51.1 mmol, 11.4 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 28.1 mmol, 5.40 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-{2-[2-(aminooxy)ethoxy]ethyl}-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 6 g | NOCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5O2
